US05104892
Step 5) Preparation of N-[4-(3-Methylamino-1-propylthio)phenyl]methanesulfonamide Hydriodide
A solution of N-[4-(3-iodo-1-propylthio)phenyl]methanesulfonamide (4.8 g, 0.13 mol), THF (28 mL), and 40 wt % methylamine in water (56 mL) was stirred at room temperature for 2 hours. The mixture was concentrated, taken up in 2:1 EtOH/toluene, and concentrated to give 4.9 g (94%) of product as a brown solid m.p. 80°-83° C.

reactant | N-[4-(3-iodo-1-propylthio)phenyl]methanesulfonamide | 0.13 mol, 4.8 g | ICCCSC1=CC=C(C=C1)NS(=O)(=O)C | C10H14INO2S2
reactant | THF | 28 mL | C1CCOC1 | C4H8O
reactant | methylamine | CN | CH5N
solvent | water | 56 mL | O | H2O
product | N-[4-(3-Methylamino-1-propylthio)phenyl]methanesulfonamide Hydriodide | 4.9 g, 94% | I.CNCCCSC1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C11H18N2O2S2.HI/c1-12-8-3-9-16-11-6-4-10(5-7-11)13-17(2,14)15;/h4-7,12-13H,3,8-9H2,1-2H3;1H
